US05399703
3-(2-Aminophenylthio)-2-(1H-tetrazol-5-yl)phenol
In 14 ml of 1.4M sodium ethylthiolate in N,N-dimethylformamide was dissolved 0.6 g of 2-[3-methoxy-2-(1H-tetrazol-5-yl)phenylthio]aniline (prepared by the process described in Reference Example 7) and the solution was refluxed for 6 hours. To the reaction mixture was added ice-water and the mixture was acidified weakly with diluted hydrochloric acid and extracted with ether. The ether layer was washed with water, dried over magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography using 5% methanol-chloroform as the eluent to give 0.2 g of the title compound as white crystals, m.p. 220°-225° C. (decomp.)

reactant | 2-[3-methoxy-2-(1H-tetrazol-5-yl)phenylthio]aniline | 0.6 g | COC=1C(=C(C=CC1)SC1=C(N)C=CC=C1)C1=NN=NN1 | C14H13N5OS
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(2-Aminophenylthio)-2-(1H-tetrazol-5-yl)phenol | 0.2 g | NC1=C(C=CC=C1)SC=1C(=C(C=CC1)O)C1=NN=NN1 | C13H11N5OS
